US04394506
N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-isopropylthiocarbonylbenzenesulfonamide
To 1.5 ml (2 N) trimethylaluminum in 5 ml dry toluene under N2 was added dropwise 0.48 g (6.0 mmole) 2-propanethiol in 2 ml toluene. The resultant aluminum reagent was stirred at room temperature for 15 minutes, and 0.95 g (2.5 mmole) of N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide was added in one portion. The suspension was heated to 80° C. for 3 hours, cooled to room temperature and 10% HCl (15 ml) was added. The mixture was stirred until a fine solid precipitated which was filtered off, washed with hexanes and air dried to yield 0.4 g of product melting at 155°-158° C. It showed infrared absorption peaks consistent for N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-isopropylthiocarbonylbenzenesulfonamide.

reactant | trimethylaluminum | 2 N, 1.5 ml | C[Al](C)C
reactant | 2-propanethiol | 6.0 mmole, 0.48 g | CC(C)S | C3H8S
reactant | aluminum | [Al] | Al
reactant | N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | 2.5 mmole, 0.95 g | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C14H15N5O6S
reactant | HCl | 15 ml | Cl | ClH
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-isopropylthiocarbonylbenzenesulfonamide | 0.4 g | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=S)C(C)C | C16H19N5O4S2
